US07262212B2
A mixture of (4-trifluoromethylphenylamino)-piperidine (1.14 g, 4.67 mmol), triphosgene (0.55 g, 1.87 mmol), and triethylamine (0.98 ml, 7.01 mmol) in methylene chloride (10 ml) was stirred at room temperature for 1.5 hours. The reaction mixture was washed with water, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure to afford 4-(4-trifluoromethylphenylamino)piperidine-1-carbonylchloride (1.43 g, quantitative) as a pale yellow oil.

reactant | (4-trifluoromethylphenylamino)-piperidine | 4.67 mmol, 1.14 g | FC(C1=CC=C(C=C1)NN1CCCCC1)(F)F | C12H15F3N2
reactant | triphosgene | 1.87 mmol, 0.55 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 7.01 mmol, 0.98 ml | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-trifluoromethylphenylamino)piperidine-1-carbonylchloride | 1.43 g | FC(C1=CC=C(C=C1)NC1CCN(CC1)C(=O)Cl)(F)F | C13H14ClF3N2O
